US06054412
3-(2,4-Dichloro-5-methylthiophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole (No. Ic.036)
1.5 g (16 mmol) of dimethyl disulfide and 5.3 g (52 mmol) of tert-butyl nitrite were added to a solution of 2 g (5.3 mmol) of 3-(5-amino-2,4-dichlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole in 30 ml of dichloromethane. The reaction mixture was subsequently stirred for 16 hours, whereupon it was washed with water and dilute sodium hydroxide solution, dried over magnesium sulfate and finally concentrated. The residue was purified by means of silica gel chromatography (eluent: hexane/ethyl acetate =4:1). Yield: 37%.

reactant | dimethyl disulfide | 16 mmol, 1.5 g | CSSC | C2H6S2
reactant | tert-butyl nitrite | 52 mmol, 5.3 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 3-(5-amino-2,4-dichlorophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | 5.3 mmol, 2 g | NC=1C(=CC(=C(C1)C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)Cl)Cl | C12H7Cl2F6N3
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-(2,4-Dichloro-5-methylthiophenyl)-1-methyl-4,5-di(trifluoromethyl)-1H-pyrazole | Yield: 37% | ClC=1SC(=C(C1C1=NN(C(=C1C(F)(F)F)C(F)(F)F)C)Cl)C | C11H6Cl2F6N2S
